US08648069B2
1-(5-Bromo-1H-indazol-1-yl)ethanone
4-Bromo-2-methylaniline (25.0 g, 134 mmol) was dissolved in chloroform (250 mL), and the mixture was cooled to 5° C. Acetic anhydride (35 mL, 343 mmol) was added dropwise, and the mixture was allowed to warm to ambient temperature. Potassium acetate (3.97 g, 40.4 mmol) and isoamylnitrite (35 mL, 262 mmol) were added, and the mixture was heated at 70° C. overnight. The mixture was neutralized with saturated sodium bicarbonate and extracted with methylene chloride. The combined organic layers were concentrated under reduced pressure, and the resulting residue was triturated with methanol to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.45 (s, 1H) 8.26 (d, J=8.82 Hz, 1H) 8.17 (d, J=1.70 Hz, 1H) 7.77 (dd, J=8.82, 2.03 Hz, 1H) 2.72 (s, 3H).

reactant | 4-Bromo-2-methylaniline | 134 mmol, 25.0 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | Acetic anhydride | 343 mmol, 35 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Potassium acetate | 40.4 mmol, 3.97 g | C(C)(=O)[O-].[K+]
reactant | isoamylnitrite | 262 mmol, 35 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-Bromo-1H-indazol-1-yl)ethanone | BrC=1C=C2C=NN(C2=CC1)C(C)=O | C9H7BrN2O
